US04707481
Example 4: 6-(3-Methoxy-4-n-propoxyphenyl)-3[2H]pyridazinethione.
T13.9 g of 3-chloro-6-(3-methoxy-4-n-propoxyphenyl)pyridazine are boiled under reflux with 5.5 g of thiourea in 50 ml of ethylene glycol monomethyl ether for 8 hours. After cooling, the mixture is diluted with 250 ml of water and extracted three times with chloroform. The chloroform extracts are dried over sodium sulfate and evaporated. The residue is crystallized from ethanol/ethyl acetate. 4.8 g (34.6% of theory) of the title compound of m.p. 174°-17620 are obtained.

reactant | 3-chloro-6-(3-methoxy-4-n-propoxyphenyl)pyridazine | ClC=1N=NC(=CC1)C1=CC(=C(C=C1)OCCC)OC | C14H15ClN2O2
reactant | thiourea | 5.5 g | NC(=S)N | CH4N2S
solvent | ethylene glycol monomethyl ether | 50 ml | COCCO | C3H8O2
solvent | water | 250 ml | O | H2O
product | 6-(3-Methoxy-4-n-propoxyphenyl)-3[2H]pyridazinethione | COC=1C=C(C=CC1OCCC)C=1C=CC(NN1)=S | C14H16N2O2S
